US07001897B2
A solution of [(1S)-1-(t-butyldiphenylsilyloxymethyl)-3-methylbutyl]carbamic acid benzyl ester (7.35 g, 15.0 mmol) (obtained as described in Reference Example 37(1)) in methanol (220 ml) was subjected to catalytic hydrogenation in the presence of 10% palladium on charcoal (7.35 g) at room temperature for 4 hours. After checking the completion of the reaction, the reaction mixture was filtered in order to remove the catalyst and the filtrate concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using methylene chloride:methanol (98:2→9:1) as the eluant to afford (1S)-1-(t-butyldiphenylsilyloxymethyl)-3-methylbutylamine (4.50 g, yield 84%) as a colorless oil.

reactant | [(1S)-1-(t-butyldiphenylsilyloxymethyl)-3-methylbutyl]carbamic acid benzyl ester | 15.0 mmol, 7.35 g | C(C1=CC=CC=C1)OC(N[C@@H](CC(C)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O | C30H39NO3Si
solvent | methanol | 220 ml | CO | CH4O
catalyst | palladium on charcoal | 7.35 g | [Pd] | Pd
product | (1S)-1-(t-butyldiphenylsilyloxymethyl)-3-methylbutylamine | 4.50 g, yield 84% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@H](CC(C)C)N | C22H33NOSi
